Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
peanut butter
 
Attending: ___
 
Chief Complaint:
stress incontinence, vaginal bleeding
 
Major Surgical or Invasive Procedure:
Laparoscopic Assisted Vaginal Hysterectomy
Bilateral Salpingectomy
Suburethral sling
Cystoscopy

 
History of Present Illness:
Ms. ___ is ___. G2P2002 
perimenopausal
female with a hx of fibroids and urinary incontinence who
presents for a surgical consultation for consideration of a hyst
for heavy menstrual bleeding and persistent HR HPV+ in a
potentially combined case w/ urogyn. 

She previously followed with ___ and reports a
___ hx of normal paps w/ persistently HR HPV. She had never
had a colposcopy. She brought her result letter from her ___
reporting a normal pap with HR HPV+. She is quite upset about
this, as she is concerned about getting sexually transmitted
infections. In fact, she and her husband separated over this
issue. Colpo ___ adequate with scant but benign ECC.

She was initially seen by Dr. ___ referred her to urogyn
for mgmt. of her incontinence and to me for mgmt. of her
fibroids. She was seen by Dr. ___ completed urodynamic
testing with plans for suburethral sling placement planned at 
the
time of hysterectomy. 

Longstanding hx of regular, heavy menstrual bleeding. Not 
managed
on medicine. Strongly desires hyst. She had an US at ___ 
___ in ___ that showed a small uterus measuring
7x4x5-cm with multiple fibroids. The largest was 1.4 cm in the
posterior fundus. 

*An interpreter from interpreter services for the patient's
preferred language was present for the history and the exam.
 
Past Medical History:
PMH: hypothyroidism, T2DM, HLD, breast SMOLD 
PSH: C/S x 2, breast core biopsy
 
Social History:
___
Family History:
NC
 
Physical Exam:
On day of discharge:
 Temp: 99.1 (Tm 99.6), BP: 122/71 (122-145/71-87), HR: 94
(94-105), RR: 18, O2 sat: 97% (94-97), O2 delivery: RA  
General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, non-distended, appropriately tender to palpation
without rebound or guarding, incision clean/dry/intact
GU: pad with no spotting
Extremities: no edema, no TTP
 
Pertinent Results:
none
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing laparoscopic assisted vaginal hysterectomy, 
bilateral salpingectomy, suburethral sling, cystoscopy for for 
AUB, persistent +hrHPV, and stress urinary incontinence. Please 
see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with Dilaudid/Toradol. Her diet 
was advanced without difficulty, and she was transitioned to 
oral oxycodone/ibuprofen/acetaminophen.

On post-operative day 1, her urine output was adequate, so her 
foley was removed, and she voided spontaneously. By the end of 
the day, she was tolerating a regular diet, voiding 
spontaneously, ambulating independently, and pain was controlled 
with oral medications. She was then discharged home in stable 
condition with outpatient follow-up scheduled.

 
Medications on Admission:
levothyroxine, lisinopril, metformin, simvastatin
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
Hold for loose stool 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Take with meals 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not drive or drink alcohol while taking this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*12 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Stress urinary incontinence
Abnormal uterine bleeding
Persistent high-risk HPV infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the gynecology service after your 
procedure. Your uterus and tubes were removed, you still have 
your ovaries. You have recovered well and the team believes you 
are ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking opioids (e.g. oxycodone, 
hydromorphone)
* Take a stool softener such as colace while taking opioids to 
prevent constipation.
* Do not combine opioid and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Leave the steri-strips in place. They will fall off on their 
own. If they have not fallen off by 7 days post-op, you may 
remove them.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___